US07851623B2
Preparation of 4-azoniaspiro[3,4]octane bromide
1,3-dibromopropane (287 ml) was heated to 45° C. and pyrrolidine (23.4 ml) added over 4 hours. The mixture was then cooled to room temperature and evaporated to dryness on a rotary evaporator. To the residual oil was added water (200 ml) and the small organic lower layer separated. The solution was washed with dichloromethane (20 ml). The aqueous layer was basified by the addition of potassium carbonate (42.8 g) and extracted with dichloromethane (2×80 ml). The combined organic extracts were dried over magnesium sulphate and evaporated to dryness on a rotary evaporator. The residue was triturated by the addition of acetone (30 ml) and stirred overnight. The solid was filtered, washed with acetone (30 ml) and dried in a vacuum oven at 40° C.

reactant | 1,3-dibromopropane | 287 ml | BrCCCBr | C3H6Br2
reactant | pyrrolidine | 23.4 ml | N1CCCC1 | C4H9N
product | 4-azoniaspiro[3,4]octane bromide | [Br-].C1CC[N+]12CCCC2 | InChI=1S/C7H14N.BrH/c1-2-5-8(4-1)6-3-7-8;/h1-7H2;1H/q+1;/p-1
